### PR TITLE
Project 20 skeleton: basic definition of non-arch local field

### PR DESCRIPTION
**Pull request by kckennylau**

### CODE REVIEW

File: ClassFieldTheory/LocalCFT/NonArchDef.lean [hunk 1]
```diff
@@ -0,0 +1,159 @@
...
+
+open scoped Valued in
+instance : ProperSpace K := ProperSpace.of_nontriviallyNormedField_of_weaklyLocallyCompactSpace K
+
+instance : IsDiscreteValuationRing 𝒪[K] :=
+  (Valued.integer.properSpace_iff_completeSpace_and_isDiscreteValuationRing_integer_and_finite_residueField.mp inferInstance).2.1
+
+variable {K} in
+def IsUniformiser (x : 𝒪[K]) : Prop :=
+  Irreducible x
```
Comment (erdOne) [inline ClassFieldTheory/LocalCFT/NonArchDef.lean:54]: I don't see the point of this definition.

File: ClassFieldTheory/LocalCFT/NonArchDef.lean [hunk 2]
```diff
@@ -0,0 +1,159 @@
...
+@[simp] lemma isUniformiser_ϖ : IsUniformiser (ϖ K) :=
+  (IsDiscreteValuationRing.exists_irreducible _).choose_spec
+
+lemma ϖ_ne_zero : ϖ K ≠ 0 :=
+  (IsDiscreteValuationRing.exists_irreducible _).choose_spec.ne_zero
+
+lemma associated_ϖ_iff_isUniformiser (x : 𝒪[K]) :
+    Associated x (ϖ K) ↔ IsUniformiser x :=
+  ⟨fun h ↦ h.symm.irreducible (isUniformiser_ϖ K),
+  fun h ↦ IsDiscreteValuationRing.associated_of_irreducible _ h (isUniformiser_ϖ K)⟩
```
Comment (erdOne) [inline ClassFieldTheory/LocalCFT/NonArchDef.lean:69]: I don't think we should be making a global choice.

File: ClassFieldTheory/LocalCFT/NonArchDef.lean [hunk 3]
```diff
@@ -0,0 +1,159 @@
...
+  sorry
+
+theorem f_pos : 0 < f K L :=
+  Module.finrank_pos
+
+theorem e_mul_f_eq_n : e K L * f K L = Module.finrank K L :=
+  sorry
+
+class IsUnramified : Prop where
+  e_eq_one : e K L = 1
```
Comment (erdOne) [inline ClassFieldTheory/LocalCFT/NonArchDef.lean:134]: You should define what it means for an extension of (discrete) valuation to be unratified. And show that this is equivalent to `Algebra.Unramified 𝒪[K] 𝒪[L]`.

File: ClassFieldTheory/LocalCFT/NonArchDef.lean [hunk 4]
```diff
@@ -0,0 +1,159 @@
...
+variable (L : Type v) [Field L] [Algebra K L] [FiniteDimensional K L]
+
+include K in
+theorem unique_hasExtension : ∃! v : ValuativeRel L, sorry := sorry
+
+noncomputable def valuativeRelOfFiniteDimensional : ValuativeRel L :=
+  (unique_hasExtension K L).choose
+
+def of_finite_extension : @IsNonArchLF L _ (valuativeRelOfFiniteDimensional K L) sorry :=
+  sorry
```
Comment (erdOne) [inline ClassFieldTheory/LocalCFT/NonArchDef.lean:155]: You should prove that "all valuations" extending that gives you a `IsNonArchLF` (cf the code in Zulip).

File: ClassFieldTheory/LocalCFT/NonArchDef.lean [hunk 5]
```diff
@@ -0,0 +1,159 @@
...
+  isOpen' := open_OK K
+
+instance : Finite 𝓀[K] :=
+  sorry
+
+instance : (ringChar (𝓀[K])).Prime :=
+  CharP.char_is_prime 𝓀[K] _
+
+class HasExtension [Algebra K L] : Prop extends
+  Valuation.HasExtension (Valued.v (R := K)) (Valued.v (R := L))
```
[the remark this answers is not in the document]
Comment (kckennylau) [reply ClassFieldTheory/LocalCFT/NonArchDef.lean:89]: done in local copy

File: ClassFieldTheory/LocalCFT/NonArchDef.lean (hunk 2 above)
Comment (kckennylau) [reply ClassFieldTheory/LocalCFT/NonArchDef.lean:69]: ditto

File: ClassFieldTheory/LocalCFT/NonArchDef.lean [hunk 6]
```diff
@@ -0,0 +1,159 @@
...
+
+/- # Constructing a finite extension from a minimal set of assumptions. -/
+
+variable (L : Type v) [Field L] [Algebra K L] [FiniteDimensional K L]
+
+include K in
+theorem unique_hasExtension : ∃! v : ValuativeRel L, sorry := sorry
+
+noncomputable def valuativeRelOfFiniteDimensional : ValuativeRel L :=
+  (unique_hasExtension K L).choose
```
[the remark this answers is not in the document]
Comment (kckennylau) [reply ClassFieldTheory/LocalCFT/NonArchDef.lean:152]: yeeted

File: ClassFieldTheory/LocalCFT/NonArchDef.lean (hunk 4 above)
Comment (kckennylau) [reply ClassFieldTheory/LocalCFT/NonArchDef.lean:155]: changed partially

File: ClassFieldTheory/LocalCFT/NonArchDef.lean (hunk 3 above)
Comment (kckennylau) [reply ClassFieldTheory/LocalCFT/NonArchDef.lean:134]: converted to TODO

File: ClassFieldTheory/LocalCFT/NonArchDef.lean [hunk 7]
```diff
@@ -0,0 +1,199 @@
...
+
+class IsNonarchLocalField (K : Type u) [Field K] [ValuativeRel K] [UniformSpace K] : Prop extends
+  ValuativeTopology K,
+  IsUniformAddGroup K,
+  LocallyCompactSpace K,
+  ValuativeRel.IsNontrivial K,
+  IsTopologicalDivisionRing K, -- TODO: remove IsTopologicalDivisionRing
+  ValuativeRel.IsRankLeOne K -- TODO: in future mathlib
+  -- CompleteSpace K,
+  -- ValuativeRel.IsDiscrete K
```
Comment (kbuzzard) [inline ClassFieldTheory/LocalCFT/NonArchDef.lean:20]: Do these follow from other hypotheses?

File: ClassFieldTheory/LocalCFT/NonArchDef.lean [hunk 8]
```diff
@@ -0,0 +1,277 @@
...
+end Padic
+
+variable (K : Type u) [Field K] [ValuativeRel K] [UniformSpace K] [IsNonarchLocalField K]
+  (L : Type v) [Field L] [ValuativeRel L] [UniformSpace L] [IsNonarchLocalField L]
+
+instance : (Valued.v : Valuation K (ValueGroupWithZero K)).IsNontrivial :=
+  ValuativeRel.isNontrivial_iff_isNontrivial.mp inferInstance
+
+-- waiting andrew
+instance : IsTopologicalDivisionRing K := sorry
```
Comment (erdOne) [inline ClassFieldTheory/LocalCFT/NonArchDef.lean:64]:
```suggestion
instance : IsTopologicalDivisionRing K := inferInstance
```

File: ClassFieldTheory/LocalCFT/NonArchDef.lean [hunk 9]
```diff
@@ -0,0 +1,277 @@
...
+def compactOpenOK : TopologicalSpace.CompactOpens K where
+  carrier := 𝒪[K]
+  isCompact' := isCompact_iff_compactSpace.mpr <| compactSpace_integer K
+  isOpen' := open_OK K
+
+-- TODO: add Haar measure (or check that it works with `example`)
+
+-- class HasExtension [Algebra K L] : Prop extends
+--   Valuation.HasExtension (Valued.v (R := K)) (Valued.v (R := L))
+class HasExtension [Algebra K L] : Prop extends ValuativeExtension K L
```
[the remark this answers is not in the document]
Comment (kckennylau) [reply ClassFieldTheory/LocalCFT/NonArchDef.lean]: yeeted

File: ClassFieldTheory/Mathlib/ValuativeLemmas.lean [hunk 10]
```diff
@@ -0,0 +1,218 @@
...
+  rw [Valuation.Compatible.rel_iff_le (v := ValuativeRel.valuation F),
+    Valuation.Compatible.rel_iff_le (v := ValuativeRel.valuation F),
+    map_div₀, map_one, div_le_one₀ (bot_lt_iff_ne_bot.2 ((map_ne_zero _).2 hy))]
+
+theorem rel_zero_iff {F : Type u} [Field F] [ValuativeRel F] (x : F) :
+    x ≤ᵥ 0 ↔ x = 0 := by
+  rw [Valuation.Compatible.rel_iff_le (v := valuation F), map_zero, le_zero_iff, map_eq_zero]
+
+/-- Two valuative relations on a field are equal iff their rings of integers are equal. -/
+@[ext high] theorem ext_field {F : Type u} [Field F] {v v' : ValuativeRel F}
```
Comment (erdOne) [inline ClassFieldTheory/Mathlib/ValuativeLemmas.lean:82]:
```suggestion
@[ext high] theorem ext_of_field {F : Type u} [Field F] {v v' : ValuativeRel F}
```

File: ClassFieldTheory/Mathlib/ValuativeLemmas.lean [hunk 11]
```diff
@@ -0,0 +1,218 @@
...
+  · rw [rel_iff_div_rel_one _ hy, @rel_iff_div_rel_one _ _ v x y hy, h]
+
+theorem posSubmonoid.ne_zero {R : Type u} [CommRing R] [ValuativeRel R]
+    (x : posSubmonoid R) : x.val ≠ 0 :=
+  mt (· ▸ rel_rfl) x.2
+
+theorem valuation_surjective₀ {F : Type u} [Field F] [ValuativeRel F]
+    (γ : ValueGroupWithZero F) : ∃ x : F, valuation F x = γ :=
+  let ⟨x, y, hxy⟩ := valuation_surjective γ
+  ⟨x / y.val, by rw [map_div₀, hxy]⟩
```
Comment (erdOne) [inline ClassFieldTheory/Mathlib/ValuativeLemmas.lean:96]: What's with the `₀`?

File: ClassFieldTheory/Mathlib/ValuativeLemmas.lean [hunk 12]
```diff
@@ -0,0 +1,218 @@
...
+
+theorem units_map_valuation_surjective {F : Type u} [Field F] [ValuativeRel F]
```
Comment (erdOne) [inline ClassFieldTheory/Mathlib/ValuativeLemmas.lean:98]:
```suggestion
theorem unitsMap_valuation_surjective {F : Type u} [Field F] [ValuativeRel F]
```

Comment (erdOne) [reply ClassFieldTheory/Mathlib/ValuativeLemmas.lean:98]: And why is this not stated in terms of `Function.Surjective`?

File: ClassFieldTheory.lean [hunk 13]
```diff
@@ -14,7 +14,14 @@ import ClassFieldTheory.GroupCohomology._6_LeftRegular
 import ClassFieldTheory.GroupCohomology._7_coind1_and_ind1
 import ClassFieldTheory.GroupCohomology._8_DimensionShift
 import ClassFieldTheory.GroupCohomology._9_CyclicGroup
+import ClassFieldTheory.GroupCohomology._10_inflationRestriction
+import ClassFieldTheory.GroupCohomology._11_TrivialityCriterion
+import ClassFieldTheory.GroupCohomology._12_augmentationModule
+import ClassFieldTheory.GroupCohomology._13_HerbrandQuotient
+import ClassFieldTheory.GroupCohomology._14_SplittingModule
```
[the remark this answers is not in the document]
Comment (kckennylau) [reply ClassFieldTheory.lean:16]: fixed

File: ClassFieldTheory/Mathlib/ValuativeLemmas.lean [hunk 14]
```diff
@@ -0,0 +1,218 @@
...
+end compare
+
+end Valuation.Compatible
+
+
+namespace ValuativeRel
+
+@[ext] theorem ext {R : Type u} [CommRing R] {v v' : ValuativeRel R}
+    (h : ∀ a b, v.rel a b ↔ v'.rel a b) : v = v' := by
+  cases v; cases v'; congr; ext; apply h
```
[the remark this answers is not in the document]
Comment (kckennylau) [reply ClassFieldTheory/Mathlib/ValuativeLemmas.lean:69]: you can, I can't

File: ClassFieldTheory/Mathlib/ValuativeLemmas.lean [hunk 15]
```diff
@@ -0,0 +1,218 @@
...
+import Mathlib.Topology.Algebra.Valued.NormedValued
+
+universe u u₀ v v'
+
+variable {R : Type u} [CommRing R] [ValuativeRel R]
+  {F : Type u₀} [Field F] [ValuativeRel F]
+  {Γ : Type v} [LinearOrderedCommMonoidWithZero Γ]
+  {Γ' : Type v'} [LinearOrderedCommMonoidWithZero Γ']
+  (v : Valuation R Γ) [Valuation.Compatible v] (v₀ : Valuation F Γ) [Valuation.Compatible v₀]
+  (x y : R) (x₀ y₀ : F)
```
[the remark this answers is not in the document]
Comment (kckennylau) [reply ClassFieldTheory/Mathlib/ValuativeLemmas.lean]: done

File: ClassFieldTheory/Mathlib/ValuativeLemmas.lean [hunk 16]
```diff
@@ -0,0 +1,218 @@
...
+
+
+namespace Valuation
+
+/-- The "valuation ball" is a valuation version of the open balls centered at 0 in a metric
+topology. This is used in `ValuativeTopology` for the statement that a valuative relation is
+compatible with a given topology -/
+def ball (v : Valuation R Γ) (γ : Γ) : Set R :=
+  { x | v x < γ }
```
[the remark this answers is not in the document]
Comment (kckennylau) [reply ClassFieldTheory/Mathlib/ValuativeLemmas.lean]: done

File: ClassFieldTheory/Mathlib/ValuativeLemmas.lean (hunk 12 above)
Comment (kckennylau) [reply ClassFieldTheory/Mathlib/ValuativeLemmas.lean]: done

File: ClassFieldTheory/Mathlib/ValuativeLemmas.lean (hunk 14 above)
[the remark this answers is not in the document]
Comment (kckennylau) [reply ClassFieldTheory/Mathlib/ValuativeLemmas.lean]: done

**Comment by kbuzzard** [comment]
🎉 

Thanks so much to everyone involved
